US04594345
One gram of 2',3,4'-trimethylflavone-8-carboxylic acid prepared by the same way as Example 1 is dissolved in methanol, equimolar 2N sodium hydroxide solution is added thereto, methanol is evaporated therefrom, the residue is dissolved in small amount of water, the solution is lyophilized, and 1.0 gram of sodium 2',3,4'-trimethylflavone-8-carboxylate, colorless powder, melting point 218° to 220° C., is obtained.

reactant | 2',3,4'-trimethylflavone-8-carboxylic acid | One gram | CC1=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)O)C=CC(=C1)C | C19H16O4
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | sodium 2',3,4'-trimethylflavone-8-carboxylate | 1.0 gram | CC1=C(C=2OC3=C(C=CC=C3C(C2C)=O)C(=O)[O-])C=CC(=C1)C.[Na+] | InChI=1S/C19H16O4.Na/c1-10-7-8-13(11(2)9-10)17-12(3)16(20)14-5-4-6-15(19(21)22)18(14)23-17;/h4-9H,1-3H3,(H,21,22);/q;+1/p-1
